US04017510
Preparation of (±)-2-Acetylamino-2,3-dimethylbutyric acid
To a stirred solution of 2-amino-2,3-dimethylbutyric acid (13.1 g) in 55 ml 2N NaOH maintained at 5° C is added simultaneously dropwise but separately 17 ml acetic anhydride and 95 ml 2N NaOH so that the pH of the solution is maintained at about 8.5. After stirring at room temperature for a further 1/2 hour, the mixture is acidified with concentrated HCl and the product, (±)-2-acetylamino-2,3-dimethylbutyric acid, removed by filtration, washed with cold water and air-dried. A sample recrystallized from acetonitrile had melting point 189°-190° C.

reactant | 2-amino-2,3-dimethylbutyric acid | 13.1 g | NC(C(=O)O)(C(C)C)C | C6H13NO2
reactant | acetic anhydride | 17 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | HCl | Cl | ClH
solvent | NaOH | 2N, 55 ml | [OH-].[Na+]
solvent | NaOH | 2N, 95 ml | [OH-].[Na+]
product | (±)-2-Acetylamino-2,3-dimethylbutyric acid | C(C)(=O)NC(C(=O)O)(C(C)C)C | C8H15NO3
